US07973012B2
(2) Preparation of (1S)-1,5-anhydro-1-[5-[4-[2-[[(2-hydroxy-1,1-dimethylethyl)aminocarbonyl]amino]ethyl]benzyl]-2-hydroxy-4-methylphenyl]-D-glucitol
To a methanol solution (4 mL) of (1S)-1,5-anhydro-2,3,4,6-tetra-O-benzyl-1-[2-(benzyloxy)-5-[4-[2-[[[(2-hydroxy-1,1-dimethylethyl)amino]carbonyl]amino]ethyl]benzyl]-4-methylphenyl]-D-glucitol (0.184 mg, 0.190 mmol) was added 20% palladium hydroxide (0.180 g), and the mixture was stirred under a hydrogen atmosphere at room temperature overnight. The reaction solution was filtered through celite and evaporated under reduced pressure. Thus obtained residue was purified with silica gel column chromatography (chloroform:methanol=17:3) to obtain the title compound (57 mg, 58%) as a colorless powder. NMR data and MS data of the compound are shown in Table 1.

reactant | (1S)-1,5-anhydro-2,3,4,6-tetra-O-benzyl-1-[2-(benzyloxy)-5-[4-[2-[[[(2-hydroxy-1,1-dimethylethyl)amino]carbonyl]amino]ethyl]benzyl]-4-methylphenyl]-D-glucitol | 0.190 mmol, 0.184 mg | C(C1=CC=CC=C1)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)C1=C(C=C(C(=C1)CC1=CC=C(C=C1)CCNC(=O)NC(CO)(C)C)C)OCC1=CC=CC=C1 | C62H68N2O8
catalyst | palladium hydroxide | 0.180 g | [OH-].[Pd+2].[OH-]
solvent | methanol | 4 mL | CO | CH4O
product | (1S)-1,5-anhydro-1-[5-[4-[2-[[(2-hydroxy-1,1-dimethylethyl)aminocarbonyl]amino]ethyl]benzyl]-2-hydroxy-4-methylphenyl]-D-glucitol | 57 mg, 58% | OCC(C)(C)NC(=O)NCCC1=CC=C(CC=2C(=CC(=C(C2)[C@H]2[C@H](O)[C@@H](O)[C@H](O)[C@H](O2)CO)O)C)C=C1 | C27H38N2O8
